US05658943
tert-Butoxycarbonylamino-(dimethoxyphosphoryl)acetic acid, methyl ester
A quantity of 2.92 g (0.016 mol) of N-bromo succinimide is added to 2.82 g (0.015 mol) of N-Boc glycine, methyl ester in 230 mL of carbon tetrachloride. The mixture is heated at reflux with stirring for 1 hour, cooled to 0° C., and filtered. The filtrate is evaporated to dryness and the residue is dissolved in 30 mL of tetrahydrofuran. A quantity of 2.10 g (0.017 mol) of trimethyl phosphite is added and the solution is maintained at reflux for 18 hours. The solvent is evaporated and the product is purified by silica gel chromatography eluting with ethyl acetate; wt 2.80 g (63%);

reactant | N-bromo succinimide | 0.016 mol, 2.92 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-Boc glycine, methyl ester | 0.015 mol, 2.82 g | C(=O)(OC(C)(C)C)NCC(=O)OC | C8H15NO4
reactant | trimethyl phosphite | 0.017 mol, 2.10 g | P(OC)(OC)OC | C3H9O3P
solvent | carbon tetrachloride | 230 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | tert-Butoxycarbonylamino-(dimethoxyphosphoryl)acetic acid, methyl ester | C(C)(C)(C)OC(=O)NC(C(=O)OC)P(=O)(OC)OC | C10H20NO7P
